US08242124B2
To a solution of 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (18 mg, 0.054 mmol), 4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (1.53 mg, 0.054 mmol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (20.93 mg, 0.065 mmol) in DMF (1 mL) was added N,N-diisopropylethylamine (0.095 mL, 0.543 mmol). The mixture was stirred at room temperature for 2 hours, diluted with MeOH and purified by prep. HPLC to give 1-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(pyridin-2-yl)-5,6-dihydropyrido[3,4-d]pyrimidin-7(8H)-yl)ethane-1,2-dione (17 mg, 0.030 mmol, 54.8% yield). LCMS: m/z 526.2 (M+H)+, 1.54 min (method 8). 1H NMR (500 MHz, MeOD) d ppm 9.17 (s, 1H) 8.99-9.10 (m, 1H) 8.61-8.74 (m, 1H) 8.27-8.32 (m, 1H) 7.92-8.04 (m, 2H) 7.74-7.79 (m, 1H) 7.43-7.53 (m, 1H) 5.09 (q, J=6.41 Hz, 1H) 4.80-5.02 (m, 2H) 3.76-4.02 (m, 5H) 3.24-3.38 (m, 2H) 1.60-1.89 (m, 3H).

reactant | 2-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 0.054 mmol, 18 mg | OC(C)C1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)O)=O)OC | C14H13N5O5
reactant | 4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.054 mmol, 1.53 mg | N1=C(C=CC=C1)C=1C2=C(N=CN1)CNCC2 | C12H12N4
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.065 mmol, 20.93 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.543 mmol, 0.095 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-(7-(3-(1-hydroxyethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(pyridin-2-yl)-5,6-dihydropyrido[3,4-d]pyrimidin-7(8H)-yl)ethane-1,2-dione | 0.030 mmol, 17 mg, 54.8% yield | OC(C)C1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)N2CC=1N=CN=C(C1CC2)C2=NC=CC=C2)=O)OC | C26H23N9O4
